US08236963B2
A solution of [5-chloro-3-(nitromethyl)-2-oxo-2,3-dihydro-1H-indol-3-yl](cyano)acetic acid, intermediate 28 (2.00 g; 6.46 mmol) in anhydrous DMF (15 ml) was heated at 160° C. for 1 hour. After evaporation of the solvent, the residue was taken up in ethyl acetate, extracted with brine, dried (MgSO4) and the solvent removed in vacuo to give the crude [5-chloro-3-(nitromethyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetonitrile (1.74 g, quant, HPLC purity 93%). MS (ESI−): 264.1

reactant | [5-chloro-3-(nitromethyl)-2-oxo-2,3-dihydro-1H-indol-3-yl](cyano)acetic acid | ClC=1C=C2C(C(NC2=CC1)=O)(C[N+](=O)[O-])C(C(=O)O)C#N | C12H8ClN3O5
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | [5-chloro-3-(nitromethyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetonitrile | 1.74 g | ClC=1C=C2C(C(NC2=CC1)=O)(C[N+](=O)[O-])CC#N | C11H8ClN3O3
